US08377941B2
Intermediate 7: 2-[3-(Ethyloxy)phenyl]-5-pyrimidinecarboxylic acid
To a solution of 2-chloro-5-pyrimidinecarboxylic acid (Anichem LLC; 100 mg, 0.631 mmol) in 1,2-dimethoxyethane (9 ml) was added [3-(ethyloxy)phenyl]boronic acid (Sigma-Aldrich; 314 mg, 1.892 mmol), sodium carbonate (401 mg, 3.78 mmol) pre-dissolved in water (1 ml) and bis(triphenylphosphine)palladium(II)chloride (66.4 mg, 0.095 mmol). The mixture was heated at 140° C. for 30 minutes in a microwave reactor (high absorbance). The catalyst was filtered and the mother liquor evaporated to dryness. Purification using MDAP gave the title compound as a white solid (10 mg);

reactant | 2-chloro-5-pyrimidinecarboxylic acid | 0.631 mmol, 100 mg | ClC1=NC=C(C=N1)C(=O)O | C5H3ClN2O2
reactant | [3-(ethyloxy)phenyl]boronic acid | 1.892 mmol, 314 mg | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
reactant | sodium carbonate | 3.78 mmol, 401 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 9 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.095 mmol, 66.4 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-[3-(Ethyloxy)phenyl]-5-pyrimidinecarboxylic acid | 10 mg | C(C)OC=1C=C(C=CC1)C1=NC=C(C=N1)C(=O)O | C13H12N2O3
